US07645614B2
A mixture of 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-[2-(4-hydroxy-3-methoxy-cyclohexyl)-1-methyl-vinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone (138 mg, 0.15 mmol), O-mono(tert-butyl-dimethyl-silanyl)octanedioic acid (86.7 mg, 0.218 mmol), dimethylaminopyridine (DMAP; 16.5 mg, 0.098 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC/HCl; 69.1 mg, 0.261 mmol) and methylene chloride (CH2Cl2; 1 ml) was stirred at room temperature for 1.5 hours. The reaction product was poured over an ethyl acetate-water mixed solution and extracted. The organic phase obtained was washed with water and saline, and dried over magnesium sulfate (MgSO4). After the MgSO4 was separated by filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was purified using a silica gel column (eluted with 20% AcOEt (in n-hexane)) to yield the desired 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-{2-[4-(7-(tert-butyl-dimethyl-silanyloxy-carbonyl)heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9] octacos-18-ene-2,3,10,16-tetraone (44 mg, 24.6%).

reactant | 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-[2-(4-hydroxy-3-methoxy-cyclohexyl)-1-methyl-vinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone | 0.15 mmol, 138 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C50H83NO12Si
reactant | O-mono(tert-butyl-dimethyl-silanyl)octanedioic acid | 0.218 mmol, 86.7 mg | C(C)(C)(C)[Si](OC(CCCCCCC(=O)O)=O)(C)C | C14H28O4Si
reactant | dimethylaminopyridine | 0.098 mmol, 16.5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.261 mmol, 69.1 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-{2-[4-(7-(tert-butyl-dimethyl-silanyloxy-carbonyl)heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9] octacos-18-ene-2,3,10,16-tetraone | 44 mg, 24.6% | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(CCCCCCC(=O)O[Si](C)(C)C(C)(C)C)=O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C64H109NO15Si2
